US08754101B2
Intermediate 16: trans-3-{[4-Fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutanamine, hydrochloride
To a stirred solution of 1,1-dimethylethyl(trans-3-{[4-fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutyl)carbamate (3.16 g, 9.05 mmol) in 1,4-dioxane (20 mL) was added hydrochloric acid in 1,4-dioxane (4M, 25 mL, 100 mmol) in one charge. The reaction vessel was sealed and the reaction stirred at ambient temperature for 16 hours. The majority of the solvent was then removed in vacuo leaving a slurry which was diluted with diethyl ether (ca 50 mL) and the solid collected by filtration and dried in vacuo to give the title compound (2.187 g).

reactant | 1,1-dimethylethyl(trans-3-{[4-fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutyl)carbamate | 9.05 mmol, 3.16 g | CC(C)(C)N(C([O-])=O)[C@@H]1C[C@H](C1)OC1=CC(=C(C=C1)F)C(F)(F)F
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | ca 50 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 100 mmol, 4M, 25 mL | O1CCOCC1 | C4H8O2
product | trans-3-{[4-Fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutanamine, hydrochloride | 2.187 g | Cl.FC1=C(C=C(C=C1)O[C@@H]1C[C@H](C1)N)C(F)(F)F | InChI=1S/C11H11F4NO.ClH/c12-10-2-1-7(5-9(10)11(13,14)15)17-8-3-6(16)4-8;/h1-2,5-6,8H,3-4,16H2;1H/t6-,8-;
